US08304546B2
Sodium hydride (60% oil base, 800 mg, 18.3 mmol) was added to a DMF solution (25 ml) of 5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one (5.0 g, 15.2 mmol). The mixture was stirred for 30 minutes at room temperature. N-Bromopropyl phthalimide (4.48 g, 16.7 mmol) was added to the mixture and stirred at room temperature for 30 minutes and at 50° C. for 5 hours. The reaction mixture was ice-cooled and water (20 ml) and ethyl acetate were added thereto, followed by stirring for 2 hours. The generated insoluble matter was separated, washed with water, and then dried, giving a pale yellow powder of 2-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1yl]propyl}isoindole-1,3-dione (4.63 g, yield: 59%).

reactant | Sodium hydride | 18.3 mmol, 800 mg | [H-].[Na+]
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | 5-fluoro-3-(4-methoxyphenyl)-8-propoxy-1H-quinolin-4-one | 15.2 mmol, 5.0 g | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=CC=C(C=C1)OC)=O | C19H18FNO3
reactant | N-Bromopropyl phthalimide | 16.7 mmol, 4.48 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 2-{3-[5-fluoro-3-(4-methoxyphenyl)-4-oxo-8-propoxy-4H-quinolin-1yl]propyl}isoindole-1,3-dione | 4.63 g, yield: 59% | FC1=C2C(C(=CN(C2=C(C=C1)OCCC)CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)OC)=O | C30H27FN2O5
